US04394515
Dibenzo[b,f]thiepin-3-carboxylic Acid 5,5-Dioxide
13.6 G. 3-cyanodibenzo[b,f]thiepin-5,5-dioxide are refluxed for 2.5 hours in a mixture of 20 cc. 10% aqueous sodium hydroxide solution and 20 cc. ethanol. The mixture is diluted with water and acidified with concentrated HCl. The acid precipitates as a white solid. The yield of acid, m.p. 268° C.-270° C. is 1.38 g. (94.6%).

reactant | 3-cyanodibenzo[b,f]thiepin-5,5-dioxide | C(#N)C=1C=CC2=C(S(C3=C(C=C2)C=CC=C3)(=O)=O)C1 | C15H9NO2S
reactant | sodium hydroxide | [OH-].[Na+]
reactant | ethanol | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
product | Dibenzo[b,f]thiepin-3-carboxylic Acid 5,5-Dioxide | C1=CC(=CC=2S(C3=C(C=CC21)C=CC=C3)(=O)=O)C(=O)O | C15H10O4S
